US05132469
n-Butyllithium (2.5M in hexane, 2.3 cm3) was added portionwise to a solution of 2-[4-bromo-2,3,5,6-tetrafluorobenzyloxy]tetrahydropyran (1.7 g) in dry tetrahydrofuran (10 cm3) under an atmosphere of dry nitrogen, whilst the reaction temperature was maintained between -30° C. and -20° C. After 15 minutes, copper (I) bromide-dimethyl sulphide complex (1.2 g) was added in one portion and the reaction temperature was maintained at -10° C. for 1 hour, after which time 1,2-dichloroprop-2-ene (1 cm3) was added, the reaction temperature then being allowed to warm to ±15° C. After 3 hours, water followed by saturated aqueous ammonium chloride solution was added to the reaction mixture, which was then extracted into diethyl ether. The organic layer was then washed with water and brine, dried, and the solvent evaporated under reduced pressure. The residue was then subjected to medium pressure column chromatography on a silica gel column using a Gilson apparatus, eluting with petroleum ether (boiling range 30°-40° C.) containing diethyl ether (10% by volume) to give 2-[4-(2-chloroprop-2-en-1-yl)-2,3,5,6-tetrafluorobenzyloxy]tetrahydropyran (1.5 g).

reactant | n-Butyllithium | 2.5M, 2.3 cm3 | C(CCC)[Li]
reactant | 2-[4-bromo-2,3,5,6-tetrafluorobenzyloxy]tetrahydropyran | 1.7 g | BrC1=C(C(=C(COC2OCCCC2)C(=C1F)F)F)F | C12H11BrF4O2
reactant | 1,2-dichloroprop-2-ene | 1 cm3 | ClCC(=C)Cl | C3H4Cl2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(2-chloroprop-2-en-1-yl)-2,3,5,6-tetrafluorobenzyloxy]tetrahydropyran | 1.5 g | ClC(CC1=C(C(=C(COC2OCCCC2)C(=C1F)F)F)F)=C | C15H15ClF4O2
